US08536187B2
A solution of 3-amino-6-(4-fluorophenyl)picolinamide (2.48 g) and triphosgene in 1,4-dioxane (50 mL) was heated to 100° C. for 1 hour. Cooling and filtration provided 2.2 g of 6-(4-fluorophenyl)pyrido[3,2-d]pyrimidine-2,4-diol which was characterized by its mass spectrum as follows: MS (m/z) 258 [M+H]+.

reactant | 3-amino-6-(4-fluorophenyl)picolinamide | 2.48 g | NC=1C(=NC(=CC1)C1=CC=C(C=C1)F)C(=O)N | C12H10FN3O
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 6-(4-fluorophenyl)pyrido[3,2-d]pyrimidine-2,4-diol | 2.2 g | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)O)O | C13H8FN3O2
